US04016274
The procedure of Example 11 is followed but starting with 2-(5-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (6.7 g.), 4-methylpiperazine (15.8 g.) and dimethylformamide (32 cc.) and stirring for 15 minutes at 23° C. The reaction mixture is then diluted by adding diisopropyl ether (320 cc.). The precipitate is filtered off, washed with diisopropyl ether (3 × 30 cc.) and then dried. A product (3.8 g.) is obtained which is recrystallised from acetonitrile (300 cc.) to yield 2-(5-chloro-1,8-naphthyridin-2yl)-3-(4-methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (2.9 g.) melting at 240° C.

reactant | 2-(5-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 6.7 g | ClC1=C2C=CC(=NC2=NC=C1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
reactant | 4-methylpiperazine | 15.8 g | CN1CCNCC1 | C5H12N2
reactant | diisopropyl ether | 320 cc | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 32 cc | CN(C=O)C | C3H7NO
product | 2-(5-chloro-1,8-naphthyridin-2yl)-3-(4-methylpiperazin-1-yl)carbonyloxy-isoindolin-1-one | 2.9 g | ClC1=C2C=CC(=NC2=NC=C1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C)=O | C22H20ClN5O3
